US07507730B2
1-(4-Fluorophenylsulfonyl)propan-2-one (150 mg, 0.69 mmol), 3-methyl-1H-pyrazol-5-amine (67 mg, 0.69 mmol) and 3,4-dichlorobenzaldehyde (121 mg, 0.69 mmol) were dissolved in THF (5 mL), to which was added a catalytic amount of piperidine (3 drops). The reaction in a sealed tube was stirred at 70° C. for about 48 hrs. After cooling to rt., solvent was removed and crude product was purified by HPLC (acetonitrile-water, 5% to 95% gradient) to provide pure Step B product 7-(3,4-dichlorophenyl)-6-(4-fluorophenylsulfonyl)-2,5-dimethyl-4,7-dihydropyrazolo[1,5-a]pyrimidine as a solid. LC-MS found: (M+1)+=452.17. The two enantiomers were readily separated on Chiral PAK AS using 15% EtOH-MeOH in heptane.

reactant | 1-(4-Fluorophenylsulfonyl)propan-2-one | 0.69 mmol, 150 mg | FC1=CC=C(C=C1)S(=O)(=O)CC(C)=O | C9H9FO3S
reactant | 3-methyl-1H-pyrazol-5-amine | 0.69 mmol, 67 mg | CC1=NNC(=C1)N | C4H7N3
reactant | 3,4-dichlorobenzaldehyde | 0.69 mmol, 121 mg | ClC=1C=C(C=O)C=CC1Cl | C7H4Cl2O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
catalyst | piperidine | 3 drops | N1CCCCC1 | C5H11N
product | 7-(3,4-dichlorophenyl)-6-(4-fluorophenylsulfonyl)-2,5-dimethyl-4,7-dihydropyrazolo[1,5-a]pyrimidine | ClC=1C=C(C=CC1Cl)C1C(=C(NC=2N1N=C(C2)C)C)S(=O)(=O)C2=CC=C(C=C2)F | C20H16Cl2FN3O2S
